US06069156
To a solution of 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylic acid (74 mg) in dimethylformamide (2 ml) were added 1-hydroxybenzotriazole (38 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (98 mg) and 3N methanol solution of ammonia (0.5 ml). After stirred at 2° C. for 14 hours, the resulting mixture was diluted with ethyl acetate. The organic phase was washed successively with 1N hydrochloric acid, water, aqueous sodium bicarbonate and brine, dried over sodium sulfate and evaporated in vacuo. The residue was triturated with isopropyl ether to give 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxamide (67 mg) as colorless crystals.

reactant | 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxylic acid | 74 mg | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)O)CC1=C(C=CC=C1)Cl)CCC | C21H20ClNO3
reactant | 1-hydroxybenzotriazole | 38 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 98 mg | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 0.5 ml | N | H3N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3N | CO | CH4O
product | 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxamide | 67 mg | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)N)CC1=C(C=CC=C1)Cl)CCC | C21H21ClN2O2
